US06841333B2
In a procedure similar to that described in Preparation of Precursor 1, FSO2(CF2)3COF (70 g, 0.25 mole), KF (21.8 g, 0.37 mole), diglyme (350 ml), Adogen 464 (10.5 g of a 56% solution in anhydrous diglyme) and diethyl sulfate (48 g, 0.312 mole) were combined and reacted at 52° C. for 16 hours. Deionized water (˜250 g) was carefully added and the reaction mixture allowed to stir at about 65° C. for two hours. This was followed by heating the solution to about 105° C. and steam distilling the product into a Dean Stark trap after which the lower fluorochemical-containing phase was separated from the upper aqueous phase. The lower fluorochemical-containing phase mixture was distilled 51.3 g (147° C.) to yield FSO2(CF2)4OC2H5 (51.3 g); The product structure, which included three branched chain isomers, was confirmed by gc/ms, 1H and 19F NMR. FSO2(CF2)4OC2H5 (30.8 g, 0.094 mole) was treated with excess lithium hydroxide as described in Preparation 3 and converted to LiO3S(CF2)4OC2H5 (30.2 g). The product structure was confirmed by lc/ms and 1H and 19F NMR. A small impurity of CF3CFHOC4F8SO3Li was observed in the liquid chromatography/mass spectrometry (lc/ms).

reactant | FSO2(CF2)3COF | 0.25 mole, 70 g | FS(=O)(=O)C(F)(F)C(F)(F)C(F)(F)C(=O)F | C4F8O3S
reactant | KF | 0.37 mole, 21.8 g | [F-].[K+]
reactant | diethyl sulfate | 0.312 mole, 48 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | water | ˜250 g | O | H2O
catalyst | Adogen 464 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | diglyme | COCCOCCOC | C6H14O3
solvent | diglyme | 350 ml | COCCOCCOC | C6H14O3
product | FSO2(CF2)4OC2H5 | 51.3 g | FS(=O)(=O)C(F)(F)C(F)(F)C(F)(F)C(F)(F)OCC | C6H5F9O3S
